US08133910B2
1-(5-Isobutyl-thiophen-2-yl)-ethanone
To a solution of 5-isobutyl-thiophene-2-carboxylic acid (550 mg, 2.99 mmol) in diethyl ether (20 mL), a solution of methyl lithium (3.75 mL, 1.6 M in diethyl ether) is slowly added at rt. The reaction mixture is stirred at rt for 1 h before it is carefully washed twice with water, dried over MgSO4, filtered and evaporated to give the title compound (336 mg) as a slightly yellow oil, LC-MS: tR=0.91 min, [M+1]+=183.07.

reactant | 5-isobutyl-thiophene-2-carboxylic acid | 2.99 mmol, 550 mg | C(C(C)C)C1=CC=C(S1)C(=O)O | C9H12O2S
reactant | methyl lithium | 1.6 M, 3.75 mL | C[Li]
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | 1-(5-Isobutyl-thiophen-2-yl)-ethanone | 336 mg | C(C(C)C)C1=CC=C(S1)C(C)=O | C10H14OS
